* SpiceSharpParser generic combinational digital gates
* Logic levels are referenced to the VDD/VSS pin pair.
* VTH is the switching threshold as a fraction of V(VDD,VSS).
* TPD is transport delay. RIN, ROUT and COUT model finite loading.

.SUBCKT DIG_BUF A Y VDD VSS PARAMS: VTH=0.5 TPD=10n RIN=1G ROUT=50 COUT=5p
RINA A VSS {RIN}
BSTATE NSTATE VSS V={if(V(A,VSS)>VTH*V(VDD,VSS),V(VDD,VSS),0)}
BVDELAY NDRIVE VSS NSTATE VSS {TPD}
ROUT NDRIVE Y {ROUT}
COUT Y VSS {COUT}
.ENDS DIG_BUF

.SUBCKT DIG_NOT A Y VDD VSS PARAMS: VTH=0.5 TPD=10n RIN=1G ROUT=50 COUT=5p
RINA A VSS {RIN}
BSTATE NSTATE VSS V={if(V(A,VSS)>VTH*V(VDD,VSS),0,V(VDD,VSS))}
BVDELAY NDRIVE VSS NSTATE VSS {TPD}
ROUT NDRIVE Y {ROUT}
COUT Y VSS {COUT}
.ENDS DIG_NOT

.SUBCKT DIG_AND2 A B Y VDD VSS PARAMS: VTH=0.5 TPD=10n RIN=1G ROUT=50 COUT=5p
RINA A VSS {RIN}
RINB B VSS {RIN}
BSTATE NSTATE VSS V={if(V(A,VSS)>VTH*V(VDD,VSS),if(V(B,VSS)>VTH*V(VDD,VSS),V(VDD,VSS),0),0)}
BVDELAY NDRIVE VSS NSTATE VSS {TPD}
ROUT NDRIVE Y {ROUT}
COUT Y VSS {COUT}
.ENDS DIG_AND2

.SUBCKT DIG_NAND2 A B Y VDD VSS PARAMS: VTH=0.5 TPD=10n RIN=1G ROUT=50 COUT=5p
RINA A VSS {RIN}
RINB B VSS {RIN}
BSTATE NSTATE VSS V={if(V(A,VSS)>VTH*V(VDD,VSS),if(V(B,VSS)>VTH*V(VDD,VSS),0,V(VDD,VSS)),V(VDD,VSS))}
BVDELAY NDRIVE VSS NSTATE VSS {TPD}
ROUT NDRIVE Y {ROUT}
COUT Y VSS {COUT}
.ENDS DIG_NAND2

.SUBCKT DIG_OR2 A B Y VDD VSS PARAMS: VTH=0.5 TPD=10n RIN=1G ROUT=50 COUT=5p
RINA A VSS {RIN}
RINB B VSS {RIN}
BSTATE NSTATE VSS V={if(V(A,VSS)>VTH*V(VDD,VSS),V(VDD,VSS),if(V(B,VSS)>VTH*V(VDD,VSS),V(VDD,VSS),0))}
BVDELAY NDRIVE VSS NSTATE VSS {TPD}
ROUT NDRIVE Y {ROUT}
COUT Y VSS {COUT}
.ENDS DIG_OR2

.SUBCKT DIG_NOR2 A B Y VDD VSS PARAMS: VTH=0.5 TPD=10n RIN=1G ROUT=50 COUT=5p
RINA A VSS {RIN}
RINB B VSS {RIN}
BSTATE NSTATE VSS V={if(V(A,VSS)>VTH*V(VDD,VSS),0,if(V(B,VSS)>VTH*V(VDD,VSS),0,V(VDD,VSS)))}
BVDELAY NDRIVE VSS NSTATE VSS {TPD}
ROUT NDRIVE Y {ROUT}
COUT Y VSS {COUT}
.ENDS DIG_NOR2

.SUBCKT DIG_XOR2 A B Y VDD VSS PARAMS: VTH=0.5 TPD=10n RIN=1G ROUT=50 COUT=5p
RINA A VSS {RIN}
RINB B VSS {RIN}
BSTATE NSTATE VSS V={if(V(A,VSS)>VTH*V(VDD,VSS),if(V(B,VSS)>VTH*V(VDD,VSS),0,V(VDD,VSS)),if(V(B,VSS)>VTH*V(VDD,VSS),V(VDD,VSS),0))}
BVDELAY NDRIVE VSS NSTATE VSS {TPD}
ROUT NDRIVE Y {ROUT}
COUT Y VSS {COUT}
.ENDS DIG_XOR2

.SUBCKT DIG_XNOR2 A B Y VDD VSS PARAMS: VTH=0.5 TPD=10n RIN=1G ROUT=50 COUT=5p
RINA A VSS {RIN}
RINB B VSS {RIN}
BSTATE NSTATE VSS V={if(V(A,VSS)>VTH*V(VDD,VSS),if(V(B,VSS)>VTH*V(VDD,VSS),V(VDD,VSS),0),if(V(B,VSS)>VTH*V(VDD,VSS),0,V(VDD,VSS)))}
BVDELAY NDRIVE VSS NSTATE VSS {TPD}
ROUT NDRIVE Y {ROUT}
COUT Y VSS {COUT}
.ENDS DIG_XNOR2
