* SpiceSharpParser generic digital and mixed-signal building blocks
* Logic levels are referenced to the VDD/VSS pin pair.
* VTH is the switching threshold as a fraction of V(VDD,VSS).
* TPD is transport delay. RIN, ROUT and COUT model finite loading.

.SUBCKT DIG_BUF A Y VDD VSS PARAMS: VTH=0.5 TPD=10n RIN=1G ROUT=50 COUT=5p
RINA A VSS {RIN}
BSTATE NSTATE VSS V={if(V(A,VSS)>VTH*V(VDD,VSS),V(VDD,VSS),0)}
BVDELAY NDRIVE VSS NSTATE VSS {TPD}
ROUT NDRIVE Y {ROUT}
COUT Y VSS {COUT}
.ENDS DIG_BUF

.SUBCKT DIG_NOT A Y VDD VSS PARAMS: VTH=0.5 TPD=10n RIN=1G ROUT=50 COUT=5p
RINA A VSS {RIN}
BSTATE NSTATE VSS V={if(V(A,VSS)>VTH*V(VDD,VSS),0,V(VDD,VSS))}
BVDELAY NDRIVE VSS NSTATE VSS {TPD}
ROUT NDRIVE Y {ROUT}
COUT Y VSS {COUT}
.ENDS DIG_NOT

.SUBCKT DIG_AND2 A B Y VDD VSS PARAMS: VTH=0.5 TPD=10n RIN=1G ROUT=50 COUT=5p
RINA A VSS {RIN}
RINB B VSS {RIN}
BSTATE NSTATE VSS V={if(V(A,VSS)>VTH*V(VDD,VSS),if(V(B,VSS)>VTH*V(VDD,VSS),V(VDD,VSS),0),0)}
BVDELAY NDRIVE VSS NSTATE VSS {TPD}
ROUT NDRIVE Y {ROUT}
COUT Y VSS {COUT}
.ENDS DIG_AND2

.SUBCKT DIG_NAND2 A B Y VDD VSS PARAMS: VTH=0.5 TPD=10n RIN=1G ROUT=50 COUT=5p
RINA A VSS {RIN}
RINB B VSS {RIN}
BSTATE NSTATE VSS V={if(V(A,VSS)>VTH*V(VDD,VSS),if(V(B,VSS)>VTH*V(VDD,VSS),0,V(VDD,VSS)),V(VDD,VSS))}
BVDELAY NDRIVE VSS NSTATE VSS {TPD}
ROUT NDRIVE Y {ROUT}
COUT Y VSS {COUT}
.ENDS DIG_NAND2

.SUBCKT DIG_OR2 A B Y VDD VSS PARAMS: VTH=0.5 TPD=10n RIN=1G ROUT=50 COUT=5p
RINA A VSS {RIN}
RINB B VSS {RIN}
BSTATE NSTATE VSS V={if(V(A,VSS)>VTH*V(VDD,VSS),V(VDD,VSS),if(V(B,VSS)>VTH*V(VDD,VSS),V(VDD,VSS),0))}
BVDELAY NDRIVE VSS NSTATE VSS {TPD}
ROUT NDRIVE Y {ROUT}
COUT Y VSS {COUT}
.ENDS DIG_OR2

.SUBCKT DIG_NOR2 A B Y VDD VSS PARAMS: VTH=0.5 TPD=10n RIN=1G ROUT=50 COUT=5p
RINA A VSS {RIN}
RINB B VSS {RIN}
BSTATE NSTATE VSS V={if(V(A,VSS)>VTH*V(VDD,VSS),0,if(V(B,VSS)>VTH*V(VDD,VSS),0,V(VDD,VSS)))}
BVDELAY NDRIVE VSS NSTATE VSS {TPD}
ROUT NDRIVE Y {ROUT}
COUT Y VSS {COUT}
.ENDS DIG_NOR2

.SUBCKT DIG_XOR2 A B Y VDD VSS PARAMS: VTH=0.5 TPD=10n RIN=1G ROUT=50 COUT=5p
RINA A VSS {RIN}
RINB B VSS {RIN}
BSTATE NSTATE VSS V={if(V(A,VSS)>VTH*V(VDD,VSS),if(V(B,VSS)>VTH*V(VDD,VSS),0,V(VDD,VSS)),if(V(B,VSS)>VTH*V(VDD,VSS),V(VDD,VSS),0))}
BVDELAY NDRIVE VSS NSTATE VSS {TPD}
ROUT NDRIVE Y {ROUT}
COUT Y VSS {COUT}
.ENDS DIG_XOR2

.SUBCKT DIG_XNOR2 A B Y VDD VSS PARAMS: VTH=0.5 TPD=10n RIN=1G ROUT=50 COUT=5p
RINA A VSS {RIN}
RINB B VSS {RIN}
BSTATE NSTATE VSS V={if(V(A,VSS)>VTH*V(VDD,VSS),if(V(B,VSS)>VTH*V(VDD,VSS),V(VDD,VSS),0),if(V(B,VSS)>VTH*V(VDD,VSS),0,V(VDD,VSS)))}
BVDELAY NDRIVE VSS NSTATE VSS {TPD}
ROUT NDRIVE Y {ROUT}
COUT Y VSS {COUT}
.ENDS DIG_XNOR2

* Differential comparator. The output is high when V(P,N) exceeds VOFF.
.SUBCKT DIG_COMP P N Y VDD VSS PARAMS: VOFF=0 TPD=10n RIN=1G ROUT=50 COUT=5p
RINP P VSS {RIN}
RINN N VSS {RIN}
BSTATE NSTATE VSS V={if(V(P,N)>VOFF,V(VDD,VSS),0)}
BVDELAY NDRIVE VSS NSTATE VSS {TPD}
ROUT NDRIVE Y {ROUT}
COUT Y VSS {COUT}
.ENDS DIG_COMP

* Active-high open-drain pull-down.
.SUBCKT DIG_OPEN_DRAIN A Y VDD VSS PARAMS: VTH=0.5 RIN=1G RON=10 ROFF=1T COUT=5p
RINA A VSS {RIN}
BOUT Y VSS I={if(V(A,VSS)>VTH*V(VDD,VSS),V(Y,VSS)/RON,V(Y,VSS)/ROFF)}
COUT Y VSS {COUT}
.ENDS DIG_OPEN_DRAIN

* Active-high reset-dominant SR latch. RHOLD and CMEM retain state in transient.
.SUBCKT DIG_SR_LATCH S R Q QB VDD VSS PARAMS: VTH=0.5 TPD=10n RIN=1G ROUT=50 COUT=5p RSTATE=1k RHOLD=1T CMEM=1p
RINS S VSS {RIN}
RINR R VSS {RIN}
BMEM STATE VSS I={if(V(R,VSS)>VTH*V(VDD,VSS),V(STATE,VSS)/RSTATE,if(V(S,VSS)>VTH*V(VDD,VSS),(V(STATE,VSS)-V(VDD,VSS))/RSTATE,0))}
RHOLD STATE VSS {RHOLD}
CSTATE STATE VSS {CMEM}
BQSTATE QRAW VSS V={if(V(STATE,VSS)>VTH*V(VDD,VSS),V(VDD,VSS),0)}
BQBSTATE QBRAW VSS V={if(V(STATE,VSS)>VTH*V(VDD,VSS),0,V(VDD,VSS))}
BVDELAYQ QDRIVE VSS QRAW VSS {TPD}
BVDELAYQB QBDRIVE VSS QBRAW VSS {TPD}
ROUTQ QDRIVE Q {ROUT}
ROUTQB QBDRIVE QB {ROUT}
COUTQ Q VSS {COUT}
COUTQB QB VSS {COUT}
.ENDS DIG_SR_LATCH

* Functional bipolar-style 555 timer.
* Pin order follows the standard package: GND TRIG OUT RESET CTRL THRESH DISCH VCC.
* RESET overrides TRIG, and TRIG overrides THRESH.
.SUBCKT TIMER555 GND TRIG OUT RESET CTRL THRESH DISCH VCC PARAMS: TPD=100n RIN=1G ROUT=20 COUT=2n RDIS=10 ROFF=1T RDIV=5k
RDIVHI VCC CTRL {RDIV}
RDIVMID CTRL REFLO {RDIV}
RDIVLO REFLO GND {RDIV}
RRESET RESET GND {RIN}
XTRIGGER REFLO TRIG TRIGCMP VCC GND DIG_COMP TPD={TPD} RIN={RIN}
XTHRESH THRESH CTRL THRESHCMP VCC GND DIG_COMP TPD={TPD} RIN={RIN}
BSETCMD SETCMD GND V={if(V(RESET,GND)<0.5*V(VCC,GND),0,if(V(TRIGCMP,GND)>0.5*V(VCC,GND),V(VCC,GND),0))}
BRESETCMD RESETCMD GND V={if(V(RESET,GND)<0.5*V(VCC,GND),V(VCC,GND),if(V(TRIGCMP,GND)>0.5*V(VCC,GND),0,if(V(THRESHCMP,GND)>0.5*V(VCC,GND),V(VCC,GND),0)))}
XLATCH SETCMD RESETCMD Q QB VCC GND DIG_SR_LATCH TPD={TPD} RIN={RIN}
XOUTPUT Q OUT VCC GND DIG_BUF TPD={TPD} RIN={RIN} ROUT={ROUT} COUT={COUT}
XDISCH QB DISCH VCC GND DIG_OPEN_DRAIN RIN={RIN} RON={RDIS} ROFF={ROFF}
.ENDS TIMER555
